US04689345
3-(5-Hydroxyhept-1-yl)cyclopentene {alpha-ethyl-2-cyclopentene-1-pentanol}
All work is performed in an inert atmosphere using anhydrous tetrahydrofuran. The starting material, 3-(5-cyclopenten-3-yl) valeraldehyde {2-cyclopentene-1-pentanal} (75 g, 0.493 moles) is dissolved in tetrahydrofuran (750 ml) and cooled in a -30° C. ethanol/dry ice bath. Ethyl magnesium bromide (0.493 moles) is added dropwise to the stirring reaction mixture for a period of over 2 hours. The reaction is warmed to 0° C. and water (100 ml), followed by 15% sulfuric acid (200 ml), is added. The aqueous layer is extracted with ether (2×300 ml) and the organic extracts are combined, reduced in volume and washed with brine (400 ml). The product is dried over anhydrous sodium sulfate and the remaining solvent removed under vacuum leaving a clear yellow oil. The crude product is chromatographed on silica gel and subsequently kugelrohred under vacuum leaving clear, colorless oil (10.2 g, 0.056 moles).

reactant | 3-(5-cyclopenten-3-yl) valeraldehyde | C=1CC(CC1)C(CC=O)CC | C10H16O
reactant | 3-(Cyclopenten-3-yl)valeraldehyde | C1=CC(CC1)C(CC=O)CC | C10H16O
reactant | Ethyl magnesium bromide | 0.493 moles | C(C)[Mg]Br
reactant | sulfuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | 750 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 3-(5-Hydroxyhept-1-yl)cyclopentene | OC(CCCCC1C=CCC1)CC | C12H22O
